US05652242
(iii) 4-(4-Hydroxypropylpiperidin-1-yl)pyridine
A solution of N-(2-carbamoylethyl)-4-cyanopyridinium chloride (2.1 g) in water (5 ml) was added dropwise to a stirred mixture of 4-hydroxypropylpiperidine (2.4 g), water (10 ml) and 2.5M sodium hydroxide solution (4.6 ml) cooled in an ice-bath. The mixture was stirred at 0°-5° C. for 1 hour. 2.5M sodium hydroxide solution (7 ml) was added and the mixture heated at reflux for 3 hours. The mixture was cooled in an ice-bath and gummy solid separated out. The aqueous layer was decanted off and the gummy solid dissolved in dichloromethane (75 ml). The solution was washed with saturated sodium chloride solution (10 ml) and dried (MgSO4). The solvent was removed by evaporation to give a gummy solid (880 mg) which on trituration with ether gave a solid; NMR(d6DMSO): 1.0-1.35(m,4H), 1.35-1.6(m,3H), 1.7(dd,2H), 2.70-2.88(dt,2H), 3.38(t,2H), 3.89(brd,2H), 4.35(brs,1H), 6.78(d,2H), 8.1(d,2H); mass spectrum(CI+): 221(M+H)+.

reactant | N-(2-carbamoylethyl)-4-cyanopyridinium chloride | 2.1 g | [Cl-].C(N)(=O)CC[N+]1=CC=C(C=C1)C#N
reactant | 4-hydroxypropylpiperidine | 2.4 g | OCCCC1CCNCC1 | C8H17NO
reactant | sodium hydroxide | 2.5M, 4.6 ml | [OH-].[Na+]
reactant | sodium hydroxide | 2.5M, 7 ml | [OH-].[Na+]
solvent | water | 5 ml | O | H2O
solvent | water | 10 ml | O | H2O
product | 4-(4-Hydroxypropylpiperidin-1-yl)pyridine | 880 mg | OCCCC1CCN(CC1)C1=CC=NC=C1 | C13H20N2O
